US06326372B1
Step 1: 5-Oximino-5-phenylpentanoic Acid
4-benzoylbutyric acid (4.26 g, 22.2 mmol), a 5 mL solution of aqueous hydroxylamine hydrochloride (1.80 g, 25.9 mmol), and a 2.0M solution of aqueous sodium hydroxide (14 mL, 28.0 mmol) were combined in 15 mL of absolute ethanol. The mixture was refluxed at 120° C. for 1 hour, then evaporated in vacuo to remove ethanol. A few drops of a 2.0M solution of aqueous hydrochloric acid were added to the solution to achieve a pH of 6. Then more water was added, and the slurry was filtered to isolate the title compound as a solid.

reactant | 4-benzoylbutyric acid | 22.2 mmol, 4.26 g | C(C1=CC=CC=C1)(=O)CCCC(=O)O | C11H12O3
reactant | hydroxylamine hydrochloride | 25.9 mmol, 1.80 g | Cl.NO
reactant | sodium hydroxide | 28.0 mmol, 14 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-Oximino-5-phenylpentanoic Acid | N(O)=C(CCCC(=O)O)C1=CC=CC=C1 | C11H13NO3
